US07429583B2
a) 1-iodo-4-methyl-nitro-pentane
A solution of 44.7 mL (352 mmol) chlorotrimethylsilane and 50 mL acetonitrile is added dropwise to 26.0 g (177 mmol) 1-methyl-4-nitro-pentan-1-ol and 52.8 g (352 mmol) sodium iodide in 350 mL acetonitrile. Then the mixture is heated to 50° C. for 4 hours, then the solvent is distilled off and the residue is combined with 500 mL diethyl ether. It is washed successively with water, sodium thiosulphate solution and sodium chloride solution. The organic phase is dried with sodium sulphate and evaporated down. 34.2 g of red oil.

reactant | chlorotrimethylsilane | 352 mmol, 44.7 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1-methyl-4-nitro-pentan-1-ol | 177 mmol, 26.0 g | CC(CCC(C)[N+](=O)[O-])O | C6H13NO3
reactant | sodium iodide | 352 mmol, 52.8 g | [I-].[Na+]
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-iodo-4-methyl-nitro-pentane | IC(CCC(C)C)[N+](=O)[O-] | C6H12INO2
